US04571345
Sodium metal (16 g, 0.7 mole) was dissolved in absolute ethanol (500 ml) under argon with cooling as necessary to maintain a temperature of <70° C. The solution was cooled and redistilled diethyl malonate (54.3 g, 0.362 mole) was added dropwise, with cooling as necessary, followed by 2,5-dibromohexane (85 g, 0.348 mole) in a single portion. The reaction mixture was stirred overnight at room temperature and then refluxed for 2 hours. The mixture was then concentrated to approximately half the volume under reduced pressure, water (500 ml) added and the mixture extracted with ether (3×200 ml). The combined extracts were dried (Na2SO4), filtered, and evaporated under reduced pressure. The residue was fractionated in vacuo to yield diethyl 2,5-dimethylcyclopentane-1,1-dicarboxylate (35 g), which was homogeneous by GC.

reactant | Sodium | 0.7 mole, 16 g | [Na] | Na
reactant | diethyl malonate | 0.362 mole, 54.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,5-dibromohexane | 0.348 mole, 85 g | BrC(C)CCC(C)Br | C6H12Br2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | diethyl 2,5-dimethylcyclopentane-1,1-dicarboxylate | 35 g | CC1C(C(CC1)C)(C(=O)OCC)C(=O)OCC | C13H22O4
